* 'xpressn-1' check xpressn.c parser

* (exec-spice "ngspice -b %s")
* (tests-aux-renumber)

* ----------------------------------------
* arbitrary tests

v1001_t  n1001_t 0  '1+2'
v1002_t  n1002_t 0  '1 + 2 '
v1003_t  n1003_t 0  '1+2*3'
v1004_t  n1004_t 0  '(1?2:3)+100'
v1005_t  n1005_t 0  '(1>2?2*4:1+2*3)+100'

v1001_g  n1001_g 0  '3'
v1002_g  n1002_g 0  '3'
v1003_g  n1003_g 0  '7'
v1004_g  n1004_g 0  '102'
v1005_g  n1005_g 0  '107'


v1006_t  n1006_t 0  '1-2.1'
v1007_t  n1007_t 0  '1--1'
v1008_t  n1008_t 0  '5+2/-4'

v1006_g  n1006_g 0  '-1.1'
v1007_g  n1007_g 0  '2'
v1008_g  n1008_g 0  '4.5'


* ----------------------------------------
*  boolean operators '&&' '||' '!'
*   output: 0.0 or 1.0
*   input:  0.0 is 'false', everything else is 'true'

* ---------------
* `&&' operator

v1009_t  n1009_t 0  '0 && 0'
v1010_t  n1010_t 0  '0 && 1'
v1011_t  n1011_t 0  '1 && 0'
v1012_t  n1012_t 0  '0.1 && 0.2'
v1013_t  n1013_t 0  '-0.1 && 0.2'

v1009_g  n1009_g 0  '0'
v1010_g  n1010_g 0  '0'
v1011_g  n1011_g 0  '0'
v1012_g  n1012_g 0  '1'
v1013_g  n1013_g 0  '1'


* ---------------
* `||' operator

v1014_t  n1014_t 0  '0 || 0'
v1015_t  n1015_t 0  '0 || 0.1'
v1016_t  n1016_t 0  '-0.1 || 0'
v1017_t  n1017_t 0  '0.1 || -0.2'

v1014_g  n1014_g 0  '0'
v1015_g  n1015_g 0  '1'
v1016_g  n1016_g 0  '1'
v1017_g  n1017_g 0  '1'


* ---------------
*  `!' operator

v1018_t  n1018_t 0  '! 0.0'
v1019_t  n1019_t 0  '! 0.1'
v1020_t  n1020_t 0  '! (-0.1)'

v1018_g  n1018_g 0  '1'
v1019_g  n1019_g 0  '0'
v1020_g  n1020_g 0  '0'



* ----------------------------------------
* comparison operators
*   output: 0.0 or 1.0

* ----------
* `>'

v1021_t  n1021_t 0  '3 > 2'
v1022_t  n1022_t 0  '2 > 3'
v1023_t  n1023_t 0  '2 > 2'

v1021_g  n1021_g 0  '1'
v1022_g  n1022_g 0  '0'
v1023_g  n1023_g 0  '0'


* ----------
* '<'

v1024_t  n1024_t 0  '3 < 2'
v1025_t  n1025_t 0  '2 < 3'
v1026_t  n1026_t 0  '2 < 2'

v1024_g  n1024_g 0  '0'
v1025_g  n1025_g 0  '1'
v1026_g  n1026_g 0  '0'


* ----------
* '<='

v1027_t  n1027_t 0  '3 >= 2'
v1028_t  n1028_t 0  '2 >= 3'
v1029_t  n1029_t 0  '2 >= 2'

v1027_g  n1027_g 0  '1'
v1028_g  n1028_g 0  '0'
v1029_g  n1029_g 0  '1'


* ----------
* '>='

v1030_t  n1030_t 0  '3 <= 2'
v1031_t  n1031_t 0  '2 <= 3'
v1032_t  n1032_t 0  '2 <= 2'

v1030_g  n1030_g 0  '0'
v1031_g  n1031_g 0  '1'
v1032_g  n1032_g 0  '1'


* ----------
* '=='

v1033_t  n1033_t 0  '3 == 2'
v1034_t  n1034_t 0  '2 == 3'
v1035_t  n1035_t 0  '2 == 2'

v1033_g  n1033_g 0  '0'
v1034_g  n1034_g 0  '0'
v1035_g  n1035_g 0  '1'


* ----------
*  '!='

v1036_t  n1036_t 0  '3 != 2'
v1037_t  n1037_t 0  '2 != 3'
v1038_t  n1038_t 0  '2 != 2'

v1036_g  n1036_g 0  '1'
v1037_g  n1037_g 0  '1'
v1038_g  n1038_g 0  '0'


* ----------------------------------------
*  four variants of exponentiation

v1039_t  n1039_t 0  '2 ^ 3'
v1039_g  n1039_g 0  '8'

v1040_t  n1040_t 0  '2 ** 3'
v1040_g  n1040_g 0  '8'

v1041_t  n1041_t 0  'pwr(2,3)'
v1041_g  n1041_g 0  '8'

v1042_t  n1042_t 0  'pow(2,3)'
v1042_g  n1042_g 0  '8'


* ----------------------------------------
* ternary 'c ? x : y' operator
*   input:  0.0 is false, everything else is true

v1043_t  n1043_t 0  ' 0.1 ? 42 : 43'
v1044_t  n1044_t 0  '-0.1 ? 42 : 43'
v1045_t  n1045_t 0  ' 0.0 ? 42 : 43'

v1043_g  n1043_g 0  '42'
v1044_g  n1044_g 0  '42'
v1045_g  n1045_g 0  '43'

* assoziativity

v1046_t  n1046_t 0  '1 ? 42 : 1 ? 41 : 40'
v1047_t  n1047_t 0  '1 ? 42 : 0 ? 41 : 40'
v1048_t  n1048_t 0  '0 ? 42 : 1 ? 41 : 40'
v1049_t  n1049_t 0  '0 ? 42 : 0 ? 41 : 40'

v1046_g  n1046_g 0  '42'
v1047_g  n1047_g 0  '42'
v1048_g  n1048_g 0  '41'
v1049_g  n1049_g 0  '40'

* --------------------
* regression tests
*   these failed in the past, due to incorrect transformations in inpcom.c

* was incorrectly transformed --> (3>2)||ternary_fcn((1<4),0.2,0.3)
v1050_t  n1050_t 0  '(3>2)||(1<4) ? 0.2 : 0.3'
v1050_g  n1050_g 0  '0.2'

* was incorrectly transformed --> controlled_exit()
v1051_t  n1051_t 0  '(3>2) ? (3+2)*((2>1)?1:1) : 42'
v1051_g  n1051_g 0  '5'

* was incorrectly transformed --> ternary_fcn((3>2),42,(2*2))3
v1052_t  n1052_t 0  '(3>2) ? 42 : (2*2)+3'
v1052_g  n1052_g 0  '42'


* ----------------------------------------
* functions

v1053_t  n1053_t 0  'sin(0.3)'
v1054_t  n1054_t 0  'cos(0.3)'
v1055_t  n1055_t 0  'tan(0.3)'
v1056_t  n1056_t 0  'asin(0.3)'
v1057_t  n1057_t 0  'acos(0.3)'
v1058_t  n1058_t 0  'atan(0.3)'
v1059_t  n1059_t 0  'arctan(0.3)'
v1060_t  n1060_t 0  'sinh(0.3)'
v1061_t  n1061_t 0  'cosh(0.3)'
v1062_t  n1062_t 0  'tanh(0.3)'
v1063_t  n1063_t 0  'asinh(0.3)'
v1064_t  n1064_t 0  'acosh(1.3)'
v1065_t  n1065_t 0  'atanh(0.3)'

v1053_g  n1053_g 0  '0.29552020666133955'
v1054_g  n1054_g 0  '0.955336489125606'
v1055_g  n1055_g 0  '0.30933624960962325'
v1056_g  n1056_g 0  '0.3046926540153975'
v1057_g  n1057_g 0  '1.266103672779499'
v1058_g  n1058_g 0  '0.29145679447786704'
v1059_g  n1059_g 0  '0.29145679447786704'
v1060_g  n1060_g 0  '0.3045202934471426'
v1061_g  n1061_g 0  '1.0453385141288605'
v1062_g  n1062_g 0  '0.2913126124515909'
v1063_g  n1063_g 0  '0.2956730475634223'
v1064_g  n1064_g 0  '0.7564329108569595'
v1065_g  n1065_g 0  '0.3095196042031116'

* ----------

v1066_t  n1066_t 0  'exp(2.0)'
v1067_t  n1067_t 0  'exp(-2.0)'

v1066_g  n1066_g 0  '7.38905609893065'
v1067_g  n1067_g 0  '0.1353352832366127'

* ----------

v1068_t  n1068_t 0  'log(2.0)'
v1069_t  n1069_t 0  'log(0.5)'

v1068_g  n1068_g 0  '0.6931471805599453'
v1069_g  n1069_g 0  '-0.6931471805599453'

v1070_t  n1070_t 0  'ln(2.0)'
v1071_t  n1071_t 0  'ln(0.5)'

v1070_g  n1070_g 0  '0.6931471805599453'
v1071_g  n1071_g 0  '-0.6931471805599453'

* ----------

v1072_t  n1072_t 0  'sqrt(2.0)'
v1072_g  n1072_g 0  '1.4142135623730951'

v1073_t  n1073_t 0  'sqr(2.0)'
v1073_g  n1073_g 0  '4.0'


* ----------------------------------------
* functions

v1074_t  n1074_t 0  'abs(2.0)'
v1075_t  n1075_t 0  'abs(-2.0)'

v1074_g  n1074_g 0  '2'
v1075_g  n1075_g 0  '2'


v1076_t  n1076_t 0  'sgn(2.0)'
v1077_t  n1077_t 0  'sgn(0.0)'
v1078_t  n1078_t 0  'sgn(-2.0)'

v1076_g  n1076_g 0  '1'
v1077_g  n1077_g 0  '0'
v1078_g  n1078_g 0  '-1'


v1079_t  n1079_t 0  'int(2.1)'
v1080_t  n1080_t 0  'int(1.9)'
v1081_t  n1081_t 0  'int(0)'
v1082_t  n1082_t 0  'int(-1.9)'
v1083_t  n1083_t 0  'int(-2.1)'

v1079_g  n1079_g 0  '2'
v1080_g  n1080_g 0  '1'
v1081_g  n1081_g 0  '0'
v1082_g  n1082_g 0  '-1'
v1083_g  n1083_g 0  '-2'


v1084_t  n1084_t 0  'nint(2.6)'
v1085_t  n1085_t 0  'nint(2.5)'
v1086_t  n1086_t 0  'nint(2.4)'
v1087_t  n1087_t 0  'nint(1.6)'
v1088_t  n1088_t 0  'nint(1.5)'
v1089_t  n1089_t 0  'nint(1.4)'
v1090_t  n1090_t 0  'nint(0.6)'
v1091_t  n1091_t 0  'nint(0.5)'
v1092_t  n1092_t 0  'nint(0.4)'
v1093_t  n1093_t 0  'nint(0)'
v1094_t  n1094_t 0  'nint(-0.4)'
v1095_t  n1095_t 0  'nint(-0.5)'
v1096_t  n1096_t 0  'nint(-0.6)'
v1097_t  n1097_t 0  'nint(-1.4)'
v1098_t  n1098_t 0  'nint(-1.5)'
v1099_t  n1099_t 0  'nint(-1.6)'
v1100_t  n1100_t 0  'nint(-2.4)'
v1101_t  n1101_t 0  'nint(-2.5)'
v1102_t  n1102_t 0  'nint(-2.6)'

v1084_g  n1084_g 0  '3'
v1085_g  n1085_g 0  '2'
v1086_g  n1086_g 0  '2'
v1087_g  n1087_g 0  '2'
v1088_g  n1088_g 0  '2'
v1089_g  n1089_g 0  '1'
v1090_g  n1090_g 0  '1'
v1091_g  n1091_g 0  '0'
v1092_g  n1092_g 0  '0'
v1093_g  n1093_g 0  '0'
v1094_g  n1094_g 0  '0'
v1095_g  n1095_g 0  '0'
v1096_g  n1096_g 0  '-1'
v1097_g  n1097_g 0  '-1'
v1098_g  n1098_g 0  '-2'
v1099_g  n1099_g 0  '-2'
v1100_g  n1100_g 0  '-2'
v1101_g  n1101_g 0  '-2'
v1102_g  n1102_g 0  '-3'


v1103_t  n1103_t 0  'floor(2.1)'
v1104_t  n1104_t 0  'floor(1.9)'
v1105_t  n1105_t 0  'floor(0)'
v1106_t  n1106_t 0  'floor(-1.9)'
v1107_t  n1107_t 0  'floor(-2.1)'

v1103_g  n1103_g 0  '2'
v1104_g  n1104_g 0  '1'
v1105_g  n1105_g 0  '0'
v1106_g  n1106_g 0  '-2'
v1107_g  n1107_g 0  '-3'


v1108_t  n1108_t 0  'ceil(2.1)'
v1109_t  n1109_t 0  'ceil(1.9)'
v1110_t  n1110_t 0  'ceil(0)'
v1111_t  n1111_t 0  'ceil(-1.9)'
v1112_t  n1112_t 0  'ceil(-2.1)'

v1108_g  n1108_g 0  '3'
v1109_g  n1109_g 0  '2'
v1110_g  n1110_g 0  '0'
v1111_g  n1111_g 0  '-1'
v1112_g  n1112_g 0  '-2'


* ----------------------------------------
* min(a,b) max(a,b)

v1113_t  n1113_t 0  'min(1.1, 2.1)'
v1114_t  n1114_t 0  'min(2.1, 1.1)'

v1113_g  n1113_g 0  '1.1'
v1114_g  n1114_g 0  '1.1'


v1115_t  n1115_t 0  'max(1.1, 2.1)'
v1116_t  n1116_t 0  'max(2.1, 1.1)'

v1115_g  n1115_g 0  '2.1'
v1116_g  n1116_g 0  '2.1'


* ----------------------------------------

v1117_t  n1117_t 0  'log10(10.0)'
v1118_t  n1118_t 0  'log10(0.5)'

v1117_g  n1117_g 0  '1.0'
v1118_g  n1118_g 0  '-0.3010299956639812'

* ----------------------------------------

.control

define mismatch(a,b,err) abs(a-b)>err

op

let total_count = 0
let fail_count = 0

let tests = 1001 + vector(118)

foreach n $&tests
  set n_test = "n{$n}_t"
  set n_gold = "n{$n}_g"
  if mismatch(v($n_test), v($n_gold), 1e-9)
    let v_test = v($n_test)
    let v_gold = v($n_gold)
    echo "ERROR, test failure, v($n_test) = $&v_test but should be $&v_gold"
    let fail_count = fail_count + 1
  end
  let total_count = total_count + 1
end

if fail_count > 0
  echo "ERROR: $&fail_count of $&total_count tests failed"
  quit 1
else
  echo "INFO: $&fail_count of $&total_count tests failed"
  quit 0
end

.endc

.end
